US04789675
To a mixture of 3-amino-5,6,7,8-tetrahydro-2-naphthol hydrobromide (1.70 g), sodium hydrogencarbonate (1.46 g), ethyl acetate (15 ml) and water (10 ml) was added under ice-cooling while stirring a solution of 2,5-dibromovaleryl chloride (1.94 g) in ethyl acetate (6 ml). The whole mixture was stirred for further 30 minutes. The ethyl acetate layer was separated, and the aqueous layer was extracted with ethyl acetate. The combined ethyl acetate layer was washed with an aqueous saline. solution, then dried (MgSO4), followed by distilling off the solvent to obtain 3-(2,5-dibromovaleryl)amino-5,6,7,8-tetrahydro-2-naphthol. This compound was dissolved in dimethylformamide (20 ml). To the solution was added powdery potassium carbonate (1.2 g), and the mixture was stirred at room temperature for 1.5 hour. To the resultant was added water, and precipitated crystals were collected by filtration, washed with water and dried, followed by recrystallization from ethyl acetate to obtain 1.53 g (67.8%) of 2-(3-bromopropyl)-6,7,8,9-tetrahydro-2H-naphtho [2,3 -b][1,4]oxazin-3(4H)-one as crystals, m.p. 139°-140° C. This compound was found to be identical with the product obtained in Reference Example 7.

reactant | 3-amino-5,6,7,8-tetrahydro-2-naphthol hydrobromide | 1.70 g | Br.NC=1C(=CC=2CCCCC2C1)O
reactant | sodium hydrogencarbonate | 1.46 g | C(O)([O-])=O.[Na+]
reactant | water | 10 ml | O | H2O
reactant | 2,5-dibromovaleryl chloride | 1.94 g | BrC(C(=O)Cl)CCCBr | C5H7Br2ClO
solvent | ethyl acetate | 6 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
product | 3-(2,5-dibromovaleryl)amino-5,6,7,8-tetrahydro-2-naphthol | BrC(C(=O)NC=1C(=CC=2CCCCC2C1)O)CCCBr | C15H19Br2NO2
